US04039316
11.7 g of methyl orthoformate were added to a solution of 23.4 g of m-acetamido-acetylacetanilide in 250 ml of anhydrous methanol and the mixture was refluxed for 3 hours and cooled. 0.6 ml of quinoline were added thereto and the methanol was distilled off under reduced pressure. Toluene was added to the residue and the mixture was heated at 140° C. for one hour while distilling a methanol-toluene azeotrope. The mixture was then concentrated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with ethyl acetate yielded 14.5 g of m-acetamido-3-methoxy-crotonanilide melting at 167° C. Crystallization from acetone did not change the melting point.

reactant | methyl orthoformate | 11.7 g | C(OC)([O-])[O-]
reactant | m-acetamido-acetylacetanilide | 23.4 g | C(C)(=O)NC=1C=C(NC(CC(C)=O)=O)C=CC1 | C12H14N2O3
reactant | quinoline | 0.6 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | methanol | 250 ml | CO | CH4O
product | m-acetamido-3-methoxy-crotonanilide | 14.5 g | C(C)(=O)NC=1C=C(NC(\C=C(\C)/OC)=O)C=CC1 | C13H16N2O3
